US08975416B2
4-(2-(4-Aminophenyl)-1H-benzo[d]imidazol-6-yl)benzene-1,2-diamine (Intermediate 9)
Prepared by Method 1, using a 1:1 ratio of biphenyl-3,3′,4,4′-tetraamine to 4-aminobenzoic acid and a reaction time of 2 h.

reactant | biphenyl-3,3′,4,4′-tetraamine | C1(=CC(=C(C=C1)N)N)C1=CC(=C(C=C1)N)N | C12H14N4
reactant | 4-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
product | 4-(2-(4-Aminophenyl)-1H-benzo[d]imidazol-6-yl)benzene-1,2-diamine | NC1=CC=C(C=C1)C1=NC2=C(N1)C=C(C=C2)C=2C=C(C(=CC2)N)N | C19H17N5
